US07597882B2
Part 1: Synthesis of Lysine Succinimide
In this example that demonstrates how this method could be performed, 2 g of L-lysine is dissolved in 200 ml dry N,N-dimethyl formamide (DMF) in a 500 ml round bottom flask. 10.7 g succinic anhydride and 20 ml triethyl amine are added under nitrogen atmosphere. The mixture is heated to 60° C. for 6 h. At the end of 6 h period, the solution is cooled and solvent is removed by vacuum distillation. The crude product is purified by flash chromatography. It is then immediately used in next reaction.

reactant | L-lysine | 2 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | succinic anhydride | 10.7 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | triethyl amine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | Lysine Succinimide | C1(CCC(N1)=O)=O.N[C@@H](CCCCN)C(=O)O | InChI=1S/C6H14N2O2.C4H5NO2/c7-4-2-1-3-5(8)6(9)10;6-3-1-2-4(7)5-3/h5H,1-4,7-8H2,(H,9,10);1-2H2,(H,5,6,7)/t5-;/m0./s1
